US05476954
A solution of 4.62 g of lithium hydroxide hydrate in 80 cm3 of water is added in the course of 10 minutes to a stirred solution of 12.8 g of ethyl (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-phenyl-5-oxazolidinecarboxylate in 200 cm3 of ethanol. After stirring for a further 10 minutes, the reaction medium is concentrated to dryness under reduced pressure (2.7kPa) at a temperature in the region of 40° C. The residue obtained is dissolved in 70 cm3 of water and then extracted with 3 times 20 cm3 of isopropyl ether. The aqueous phase is then acidified to a pH in the region of 2.6 by adding approximately 100 cc of 1N aqueous hydrochloric acid solution and thereafter extracting with 3 times 50 cm3 of dichloromethane. The combined organic phases are dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. 11.3 g of (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-phenyl-5-oxazolidinecarboxylic acid are thereby obtained in the form of a yellow oil, the characteristics of which are as follows:

reactant | lithium hydroxide hydrate | 4.62 g | O.[OH-].[Li+]
reactant | ethyl (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-phenyl-5-oxazolidinecarboxylate | 12.8 g | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1C1=CC=CC=C1)C(=O)OCC)(C)C | C19H27NO5
solvent | water | 80 cm3 | O | H2O
solvent | ethanol | 200 cm3 | C(C)O | C2H6O
solvent | water | 70 cm3 | O | H2O
product | (4S,5R)-3-tert-butoxycarbonyl-2,2-dimethyl-4-phenyl-5-oxazolidinecarboxylic acid | 11.3 g | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1C1=CC=CC=C1)C(=O)O)(C)C | C17H23NO5
